US07851473B2
(1) tert-Butyl 4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate
A solution of 2-bromo-1-(2-fluorophenyl)ethanone (977 mg, 4.50 mmol), tert-butyl 4-(aminocarbonothioyl)piperidine-1-carboxylate (1.0 g, 4.09 mmol) and potassium carbonate (1.13 g, 8.18 mmol) in dimethylformamide (30 ml) was stirred at 110° C. for 1 hour. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give the desired product (391 mg, 26.3%) as an oil.

reactant | 2-bromo-1-(2-fluorophenyl)ethanone | 4.50 mmol, 977 mg | BrCC(=O)C1=C(C=CC=C1)F | C8H6BrFO
reactant | tert-butyl 4-(aminocarbonothioyl)piperidine-1-carboxylate | 4.09 mmol, 1.0 g | NC(=S)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O2S
reactant | potassium carbonate | 8.18 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 391 mg, 26.3% | FC1=C(C=CC=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H23FN2O2S
